US04518596
8-(4-Bromophenyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 8-(4-bromophenyl-thio)-2-chloro-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 205°-207° C.) and piperazine.

reactant | 8-(4-bromophenyl-thio)-2-chloro-4-morpholino-pyrimido-[5,4-d]-pyrimidine | BrC1=CC=C(C=C1)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)Cl | C16H13BrClN5OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(4-Bromophenyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | BrC1=CC=C(C=C1)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCNCC2 | C20H22BrN7OS
